US08648087B2
Step G: Preparation of 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoic acid:
A 25 ml flask was charged with tert-butyl 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoate (0.060 g, 0.16 mmol) and dichloromethane (1.6 ml). The reaction was cooled to 0° C., and 2,2,2-trifluoroacetic acid (0.50 ml, 0.16 mmol) was added. The reaction was stirred for 20 minutes, then warmed to ambient temperature, stirred an additional 3 hours, and then concentrated to provide the desired product as a colorless oily residue.

reactant | tert-butyl 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoate | 0.16 mmol, 0.060 g | N=1C=NN2C1C=C(C=C2)OC2=C(C(=C(C(=O)OC(C)(C)C)C=C2)F)Cl | C17H15ClFN3O3
reactant | 2,2,2-trifluoroacetic acid | 0.16 mmol, 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
product | 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoic acid | N=1C=NN2C1C=C(C=C2)OC2=C(C(=C(C(=O)O)C=C2)F)Cl | C13H7ClFN3O3
